US07511057B2
(4-Chloro-3-methoxyphenyl)hydrazine
Concentrated hydrochloric acid (12 mL) and a solution of sodium nitrite (1.7 g, 24.4 mmol) in water (8 mL) were added to a solution of 4-chloro-3-methoxy aniline (3.86 g, 24.4 mmol) in water (8 mL), at −10° C. The mixture was stirred for 30 minutes and was then added to solution of tin chloride (14.89 g, 66 mmol) in concentrated hydrochloric acid (24 mL) and water (24 mL), cooled to 0° C. The reaction mixture was stirred for 18 hours, allowing the temperature to rise to 25° C. The resulting precipitate was filtered off and the solid was re-crystallised from heptanes/ethyl acetate (33:66) to afford the title compound the title compound as white solid in 72% yield, 3 g

reactant | sodium nitrite | 24.4 mmol, 1.7 g | N(=O)[O-].[Na+]
reactant | 4-chloro-3-methoxy aniline | 24.4 mmol, 3.86 g | ClC1=C(C=C(N)C=C1)OC | C7H8ClNO
reactant | tin chloride | 66 mmol, 14.89 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | water | 8 mL | O | H2O
solvent | water | 8 mL | O | H2O
solvent | hydrochloric acid | 24 mL | Cl | ClH
solvent | water | 24 mL | O | H2O
solvent | hydrochloric acid | 12 mL | Cl | ClH
product | (4-Chloro-3-methoxyphenyl)hydrazine | ClC1=C(C=C(C=C1)NN)OC | C7H9ClN2O
